US06319946B1
{(1S,2R)-3-[(3-Acetylamino-4-fluoro-benzenesulfonyl)-(4-cyano-2,2-dimethyl-butyl)-amino]-1-benzyl-2-hydroxy-propyl}-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester
[(1S,2R)-1-Benzyl-3-(4-cyano-2,2-dimethyl-butylamino)-2-hydroxy-propyl]-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester (0.020 g, 0.05 mmol) was dissolved in CH2Cl2 and treated with diisopropylethylamine (0.025 ml, 0.13 mmol) and 3-acetamido-4-fluorob-enzenesulfonyl chloride (0.012 g, 0.05 mmol) at ambient temperature under argon with stirring. After 15 h the reaction mixture was concentrated in vacuo, taken up in EtOAc, washed with sat. aq. NaHCO3, and brine. The organic phase was dried over MgSO4, filtered and solvent removed in vacuo. Purification by preparative thin layer chromatography (3% MeOH in CH2Cl2) gave 0.013 g of a white solid. MS (ES): 661 (M+1).

reactant | [(1S,2R)-1-Benzyl-3-(4-cyano-2,2-dimethyl-butylamino)-2-hydroxy-propyl]-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester | 0.05 mmol, 0.020 g | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CNCC(CCC#N)(C)C)O)CC2=CC=CC=C2)=O | C24H35N3O5
reactant | diisopropylethylamine | 0.13 mmol, 0.025 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-acetamido-4-fluorob-enzenesulfonyl chloride | 0.05 mmol, 0.012 g | C(C)(=O)NC=1C=C(C=CC1F)S(=O)(=O)Cl | C8H7ClFNO3S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {(1S,2R)-3-[(3-Acetylamino-4-fluoro-benzenesulfonyl)-(4-cyano-2,2-dimethyl-butyl)-amino]-1-benzyl-2-hydroxy-propyl}-carbamic acid (3R,3aS,6aR)hexahydro-furo[2,3-b]furan-3-yl ester | 0.013 g | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(CCC#N)(C)C)S(=O)(=O)C2=CC(=C(C=C2)F)NC(C)=O)O)CC2=CC=CC=C2)=O | C32H41FN4O8S
